US08110581B2
(5S)-7-[3-Chloro-5-(2-oxo-1,3-oxazinan-3-yl)pyridin-2-yl]-2-(trans-4-hydroxycyclohexyl)-2,7-diazaspiro[4.5]decan-1-one
3-Chloropropyl chloridocarbonate (15.1 μL, 0.000125 mol) was added to a mixture of (5S)-7-(5-amino-3-chloropyridin-2-yl)-2-(trans-4-hydroxycyclohexyl)-2,7-diazaspiro[4.5]decan-1-one (37.89 mg, 0.0001000 mol, this compound was prepared by using procedures analogous to those described for the synthesis of example 105, step 1 starting from (5S)-2-(trans-4-hydroxycyclohexyl)-2,7-diazaspiro[4.5]decan-1-one) and 4-dimethylaminopyridine (18.3 mg, 0.000150 mol) in DMF (1.00 mL). After stirring the mixture for 1 h, 1.0000 M of potassium tert-butoxide in tetrahydrofuran (0.375 mL) was added and the resultant mixture was stirred at rt for 2 h. The mixture was diluted with methanol (0.8 mL) and was adjusted to pH=2.0 with TFA. The resulting solution was purified by prep.-HPLC to give the desired product. LC-MS: 463.1 (M+H)+.

reactant | 3-Chloropropyl chloridocarbonate | 0.000125 mol, 15.1 μL | C(COC(=O)Cl)CCl | C4H6Cl2O2
reactant | (5S)-7-(5-amino-3-chloropyridin-2-yl)-2-(trans-4-hydroxycyclohexyl)-2,7-diazaspiro[4.5]decan-1-one | NC=1C=C(C(=NC1)N1C[C@@]2(CCN(C2=O)[C@@H]2CC[C@H](CC2)O)CCC1)Cl | C19H27ClN4O2
reactant | (5S)-2-(trans-4-hydroxycyclohexyl)-2,7-diazaspiro[4.5]decan-1-one | O[C@@H]1CC[C@H](CC1)N1C([C@@]2(CC1)CNCCC2)=O | C14H24N2O2
reactant | potassium tert-butoxide | 1.0000 M | CC(C)([O-])C.[K+]
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
catalyst | 4-dimethylaminopyridine | 0.000150 mol, 18.3 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | DMF | 1.00 mL | CN(C)C=O | C3H7NO
solvent | tetrahydrofuran | 0.375 mL | O1CCCC1 | C4H8O
solvent | methanol | 0.8 mL | CO | CH4O
product | (5S)-7-[3-Chloro-5-(2-oxo-1,3-oxazinan-3-yl)pyridin-2-yl]-2-(trans-4-hydroxycyclohexyl)-2,7-diazaspiro[4.5]decan-1-one | ClC=1C(=NC=C(C1)N1C(OCCC1)=O)N1C[C@@]2(CCN(C2=O)[C@@H]2CC[C@H](CC2)O)CCC1 | C23H31ClN4O4
